US08202876B2
5-Methyl-2-(6-methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamine (90 mg, 0.40 mmol) is mixed with N-(3-Bromo-4-methyl-phenyl)-3-trifluoromethyl-benzamide (228 mg, 0.64 mmol), palladium acetate (20 mg, 0.089 mmol), Xantophos (75 mg, 0.13 mmol) and cesium carbonate (420 mg, 1.28 mmol). 4 mL anhydrous 1,4-dioxane is added under a nitrogen environment and the mixture is subjected to microwave irradiation to 150° C. for 30 minutes. The reaction mixture is then cooled to room temperature, treated with 100 mL THF, passed through a celite column and concentrated. The crude product is purified by ISCO chromatography eluting with ethyl acetate in hexanes from 0% to 40% to afford N-{4-Methyl-3-[5-methyl-2-(6-methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamino]-phenyl}-3-trifluoromethyl-benzamide: 1H NMR 400 MHz (d6-DMSO) δ 10.65 (s, 1H), 10.46 (s, 1H), 8.89 (s, 1H), 8.30-8.25 (m, 2H), 7.98 (d, J=7.5 Hz, 1H), 7.89 (s, 1H), 7.80 (t, J=7.5 Hz, 1H), 7.67 (s, 1H), 7.40 (d, J=7.5 Hz, 1H), 7.25 (d, J=8.2 Hz, 1H), 6.12 (s, 1H), 2.61 (s, 3H), 2.34 (s, 3H), 2.25 (s, 3H); MS m/z 499.14 (M+1).

reactant | 5-Methyl-2-(6-methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamine | 0.40 mmol, 90 mg | CC=1C=C(N(N1)C1=NC=NC(=C1)SC)N | C9H11N5S
reactant | N-(3-Bromo-4-methyl-phenyl)-3-trifluoromethyl-benzamide | 0.64 mmol, 228 mg | BrC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)C(F)(F)F)=O | C15H11BrF3NO
reactant | cesium carbonate | 1.28 mmol, 420 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.089 mmol, 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-{4-Methyl-3-[5-methyl-2-(6-methylsulfanyl-pyrimidin-4-yl)-2H-pyrazol-3-ylamino]-phenyl}-3-trifluoromethyl-benzamide | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)NC=1N(N=C(C1)C)C1=NC=NC(=C1)SC | C24H21F3N6OS
